US04340740
m-Phenoxyacetophenone is reduced with sodium borohydride to form alpha-(m-phenoxyphenyl)ethyl alcohol which is then reacted with phosphorus tribromide to form alpha-(m-phenoxyphenyl)ethyl bromide. This product is reacted with sodium cyanide under heat in dimethyl sulfoxide. Hydrolysis of the product with sodium hydroxide gives the desired alpha-(m-phenoxyphenyl)propionic acid. (For details, see U.S. Pat. No. 3,600,437).

reactant | m-Phenoxyacetophenone | O(C1=CC=CC=C1)C=1C=C(C=CC1)C(C)=O | C14H12O2
reactant | sodium borohydride | [BH4-].[Na+]
product | alpha-(m-phenoxyphenyl)ethyl alcohol | O(C1=CC=CC=C1)C=1C=C(C=CC1)C(C)O | C14H14O2
